** sch_path: /home/toind/work/sislab_vnu/vco_adc2/xschem/lib_dco/dco_freq.sch
.subckt dco_freq clk clkDiv2
*.PININFO clkDiv2:O clk:I
x1 clk D VGND VNB VPB VPWR clkDiv2 Q_N sky130_fd_sc_hd__dfxbp_2
x2 clkinv Q_N_buf VGND VNB VPB VPWR D sky130_fd_sc_hd__dfxtp_1
x3 clk VGND VNB VPB VPWR clkinv sky130_fd_sc_hd__inv_4
x4 Q_N VGND VNB VPB VPWR Q_N_buf sky130_fd_sc_hd__buf_4
.ends
.end
